US06784180B2
Preparation of 4-(3-Ethylbenzo[b]thiophen-2-yl)-1,2,5,6-tetrahydropyridine.
Scheme IA, Step B: 4-Hydroxy-4-(3-(1-hydroxyethyl)benzo[b]thiophen-2-yl)-1-(t-butyloxycarbonyl)piperidine (1.038 g, 2.75 mmol) was slowly added in portions to trifluoroacetic acid (6 mL). To this mixture was added triethylsilane (1.0 mL, 6.05 mmol) dropwise. The solution was stirred at 20° C. for 3 hours then diluted with 2 N sodium hydroxide and extracted 3 times with ethyl acetate. The combined organics were dried over sodium sulfate, filtered and evaporated. The residue was chromatographed (dichloromethane/20% methanol, 2% anhydrous ammonia in dichloromethane gradient eluent) to give the intermediate title compound as a yellow solid (0.484 g, 72%). FDMS m/e=244 (M++1).

reactant | 4-Hydroxy-4-(3-(1-hydroxyethyl)benzo[b]thiophen-2-yl)-1-(t-butyloxycarbonyl)piperidine | 2.75 mmol, 1.038 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=C(C2=C(S1)C=CC=C2)C(C)O | C20H27NO4S
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 6.05 mmol, 1.0 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
product | 4-(3-Ethylbenzo[b]thiophen-2-yl)-1,2,5,6-tetrahydropyridine | 0.484 g, 72% | C(C)C=1C2=C(SC1C1=CCNCC1)C=CC=C2 | C15H17NS
